US07504413B2
1,1-dimethylethyl (4R)-4-(([(1,1-dimethylethyl)oxy]carbonyl}amino)-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoate
A flask containing zinc dust (6.0 equiv, 325 mesh, Strem) was heated with a heat gun while evacuating and filling with nitrogen (3 times). Under nitrogen, degassed DMF (14 mL) was added via syringe followed by 1,2-dibromoethane (0.35 equiv). The grey reaction mixture was stirred in an oil bath at 100° C. for 15 minutes and then cooled to room temperature. Chlorotrimethylsilane (0.25 equiv) was added to the mixture via syringe and the reaction was stirred at room temperature for 30 minutes. A solution of 1,1-dimethylethyl (4R)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-iodopentanoate (2.0 g, 1.2 equiv) in degassed DMF (14 mL) was added to the reaction mixture via cannula. The flask containing the solution was rinsed with degassed DMF (4 mL) and cannulated into the reaction mixture. The reaction was stirred at room temperature for 1 hour. Then, tris(dibenzylideneacetone)dipalladium (0) (2.5 mol %), tri-o-tolylphosphine (10 mol %) and 2-(4-iodophenyl)-8-methylimidazo[1,2-a]pyridine (1.4 g, 1.0 equiv) were added through the top all at once. The reaction mixture was stirred at room temperature for 17 hours. The reaction was diluted with EtOAc (40 mL) and filtered through Celite®. The filtrate was washed with H2O (20 mL) and brine (20 mL), and the organic layer was dried over MgSO4 and concentrated in vacuo. Purification by silica gel chromatography (Analogix IF280, 5-90% EtOAc/hexanes) afforded the title compound as a white solid (90%). ESMS [M+H]+=480.4.

reactant | 1,2-dibromoethane | 0.35 equiv | BrCCBr | C2H4Br2
reactant | Chlorotrimethylsilane | 0.25 equiv | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1,1-dimethylethyl (4R)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-iodopentanoate | 2.0 g, 1.2 equiv | CC(C)(C)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)CI | C14H26INO4
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 2-(4-iodophenyl)-8-methylimidazo[1,2-a]pyridine | 1.4 g, 1.0 equiv | IC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C14H11IN2
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | zinc | 6.0 equiv | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl (4R)-4-(([(1,1-dimethylethyl)oxy]carbonyl}amino)-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoate | 90% | CC(C)(C)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C28H37N3O4
